US07973051B2
iii) 5-Methyl-thiophene-3-sulfonic acid lithium salt
To a solution of 4-bromo-2-methyl-thiophene (1.594 g, 9.00 mmol) in 5.0 mL of diethyl ether was added dropwise 2.1 mL of tert-butyllithium in pentane (1.7 M, 09 eq.). After stirring for 20 Min. at −78° C., sulfur dioxide (condensed, ca. 4 mL) was added dropwise and the reaction mixture kept for another 30 min at this temperature. The dry ice cooling bath was removed and the reaction mixture diluted with heptane; the precipitated solid was collected, washed with some heptane and dried at high vacuum to yield 1.100 g of the title compound as white solid.

reactant | 4-bromo-2-methyl-thiophene | 9.00 mmol, 1.594 g | BrC=1C=C(SC1)C | C5H5BrS
reactant | tert-butyllithium | 2.1 mL | C(C)(C)(C)[Li]
reactant | sulfur dioxide | ca. 4 mL | S(=O)=O | O2S
reactant | diethyl ether | 5.0 mL | C(C)OCC | C4H10O
solvent | pentane | 1.7 M | CCCCC | C5H12
product | 5-Methyl-thiophene-3-sulfonic acid lithium salt | 1.100 g | [Li+].CC1=CC(=CS1)S(=O)(=O)[O-] | InChI=1S/C5H6O3S2.Li/c1-4-2-5(3-9-4)10(6,7)8;/h2-3H,1H3,(H,6,7,8);/q;+1/p-1
